US07087579B2
To a solution of 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole (0.081 g) in N,N-dimethylformamide (1 mL) were added cesium carbonate (0.40 g), bromomethylcyclopropane (0.099 mL) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for 7 days. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-8/1) to give 1-(cyclopropylmethyl)-3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4methylthiophenyl)methyl]-1H-pyrazole (0.041 g).

reactant | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole | 0.081 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)SC)C | C18H24N2O6S
reactant | cesium carbonate | 0.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromomethylcyclopropane | 0.099 mL | BrCC1CC1 | C4H7Br
reactant | sodium iodide | [I-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-(cyclopropylmethyl)-3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4methylthiophenyl)methyl]-1H-pyrazole | 0.041 g | C1(CC1)CN1N=C(C(=C1C)CC1=CC=C(C=C1)SC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H30N2O6S
